US06566535B1
Under a nitrogen flow, 533.2 g of crude 2-fluoro-5-(4-propoxyethoxyphenyl)benzaldehyde was dissolved in 894 ml of N,N-dimethylformamide and cooled to 10° C. or lower 1,8-Diazabicyclo[5.4.0]-7-undecene (450 g, 2.956 mol) was added while keeping the mixture at 0-10° C. After dropping ethyl 4-mercaptobutyrate (438 g, 2.956 mol) slowly, the mixture was heated to 20° C. and then stirred at 20-30° C. for 1 hour. At 20-30° C., 8940 ml of diethyl carbonate was added and subsequently a solution of 20% sodium ethoxide (2012 g and 5.912 mol) in ethanol was dropped. The mixture was stirring at 20-30° C. for 3 hours and then cooled to 5° C. After adding 4.35 L of a 2N hydrochloric acid while maintaining the temperature at 10° C. or lower, phase separation was conducted and the water layer was extracted with 3.75 L of ethyl-acetate. The organic layers were combined and washed with 4 L of water, 4 L of a 5% aqueous sodium hydrogencarbonate solution, and 4 L of a 5% brine. Activated carbon Shirasagi A (45 g) and then tri-n-butyl phosphine (51 ml) were added. The mixture was stirred at room temperature for 20 minutes and then filtered. The residue was washed with 1.2 L of ethyl acetate. The filtrate was concentrated under vacuum, 1.2 L of isopropanol was added and then vacuum concentration was conducted (twice). After addition of 1.2 L of isopropyl ether and vacuum concentration, 900 ml of isopropyl ether was added to the oily matter obtained. Crystals formed during stirring at room temperature were dissolved by heating under reflux. After cooling and stirring for 2.5 hours and stirring for 2 hours while cooling in ice, the mixture was filtered and the residue was washed with 900 ml of ice-cooled isopropyl ether. Through vacuum drying (40° C.), 344.8 g (Yield from 5-bromo-2-fluorobenzaldehyde: 57%) of ethyl 7-(4-propoxyethoxyphenyl)-2,3-dihydro-1-benzothiepine-4-carboxylate was obtained as pale yellow crystals.

reactant | 2-fluoro-5-(4-propoxyethoxyphenyl)benzaldehyde | 533.2 g | FC1=C(C=O)C=C(C=C1)C1=CC=C(C=C1)OCCOCCC | C18H19FO3
reactant | 1,8-Diazabicyclo[5.4.0]-7-undecene | 2.956 mol, 450 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | ethyl 4-mercaptobutyrate | 2.956 mol, 438 g | SCCCC(=O)OCC | C6H12O2S
reactant | diethyl carbonate | 8940 ml | C(OCC)(OCC)=O | C5H10O3
reactant | sodium ethoxide | 5.912 mol, 2012 g | [O-]CC.[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | N,N-dimethylformamide | 894 ml | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | ethyl 7-(4-propoxyethoxyphenyl)-2,3-dihydro-1-benzothiepine-4-carboxylate | 344.8 g, 57% | C(CC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2)C(=O)OCC)C1 | C24H28O4S
